US05922742
Step 1: Trifluoromethanesulfonic acid 5-chloro-2-pyridinyl ester
To a -78° C. solution of 5-chloro-2-hydroxypyridine (1.0 g, 7.72 mmol) and diisopropylethyl amine (1.88 mL, 10.81 mmol) in CH2Cl2 (35 mL) was added trifluoromethanesulfonic anhydride (1.56 mL, 9.26 mmol), and the reaction mixture was allowed to warm to r.t. After 30 min, the mixture was washed with H2O and brine, filtered through cotton and concentrated to dryness. The residue was purified by flash chromatography (8% EtOAc/hexanes) and to give 1.0 g of the title compound.

reactant | 5-chloro-2-hydroxypyridine | 7.72 mmol, 1.0 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | diisopropylethyl amine | 10.81 mmol, 1.88 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 9.26 mmol, 1.56 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 5-chloro-2-pyridinyl ester | 1.0 g | ClC=1C=CC(=NC1)OS(=O)(=O)C(F)(F)F | C6H3ClF3NO3S
